US04746746
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(3-hydroxy-1-pyrrolidinyl)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (50 mg) in 6 ml of anhydrous methanol was treated with 3-pyrrolidinol (13 mg) under nitrogen at room temperature. When thin-layer chromatography on silica gel (2:8 methanol-chloroform as solvent) showed that starting material no longer was present, the mixture was filtered and evaporated under reduced pressure. The residue was purified by preparative thinlayer chromatography using the same solvent system. This procedure gave 23 mg (40% yield) of the desired product having a melting point of 82°-85° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 50 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | 3-pyrrolidinol | 13 mg | N1CC(CC1)O | C4H9NO
solvent | methanol | 6 ml | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(3-hydroxy-1-pyrrolidinyl)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 23 mg, 40% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)N1CC(CC1)O)C)=O)CC1C2N1)OC | InChI=1S/C18H23N3O5.CH3NO2/c1-8-13(20-4-3-9(23)5-20)16(25)12-10(7-22)18(26-2)17-11(19-17)6-21(18)14(12)15(8)24;2-1(3)4/h9-11,17,19,22-23H,3-7H2,1-2H3;2H2,(H,3,4)
